US06251894B1
3,5-di(trifluoromethyl)benzoyl chloride (0.003 mol) and then triethylamine (0.0045 mol) were added dropwise to a mixture of (±)-trans-6-[1-[2-[(3,4-dichlorophenyl)-methyl]-4-piperidinyl]-4-piperidinyl]-11,12-dihydro-6H-benzimidazo[2,1-b][3]benzazepine (0.003 mol) in CH2Cl2 (25ml). The mixture was stirred at RT overnight, washed with water and separated into its layers. The organic layer was dried, filtered and the solvent was evaporated. The residue was purified over silica gel on a glass filter (eluent: CH2Cl2/CH3OH 98/2 to 96/4). The pure fractions were collected and the solvent was evaporated. The residue was dried, yielding 1.23 g (51%) of (±)-trans-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[(3,4-dichlorophenyl)methyl]-4-[4-(11,12-dihydro-6H-benzimidazo[2,1-b][3]benzazepin-6-yl)-1-piperidinyl]piperidine (comp. 63).

reactant | 3,5-di(trifluoromethyl)benzoyl chloride | 0.003 mol | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | triethylamine | 0.0045 mol | C(C)N(CC)CC | C6H15N
reactant | (±)-trans-6-[1-[2-[(3,4-dichlorophenyl)-methyl]-4-piperidinyl]-4-piperidinyl]-11,12-dihydro-6H-benzimidazo[2,1-b][3]benzazepine | 0.003 mol | ClC=1C=C(C=CC1Cl)C[C@@H]1NCC[C@H](C1)N1CCC(CC1)C1C=2N(CCC3=C1C=CC=C3)C3=C(N2)C=CC=C3 | C33H36Cl2N4
solvent | CH2Cl2 | 25ml | C(Cl)Cl | CH2Cl2
product | (±)-trans-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[(3,4-dichlorophenyl)methyl]-4-[4-(11,12-dihydro-6H-benzimidazo[2,1-b][3]benzazepin-6-yl)-1-piperidinyl]piperidine | 1.23 g, 51% | FC(C=1C=C(C(=O)N2[C@H](C[C@@H](CC2)N2CCC(CC2)C2C=3N(CCC4=C2C=CC=C4)C4=C(N3)C=CC=C4)CC4=CC(=C(C=C4)Cl)Cl)C=C(C1)C(F)(F)F)(F)F | C42H38Cl2F6N4O
